US07202251B2
Step A. N-(2-Amino-6-bromophenyl)acetamide
Iron powder (2.92 g, 52.32 mmol) and ammonium chloride (2.3 g, 43.6 mmol) in ethanol (40 mL) and water (20 mL) were added to a solution of N-(2-bromo-6-nitrophenyl)acetamide [Edlin et al., New Journal of Chemistry 1999, 23, 819–826] (2.26 g, 8.72 mmol) in DMF (20 mL) and the mixture was heated at reflux. After 6 h, the reaction was filtered through a celite pad, washed with acetone, and concentrated in vacuo to give the title compound. MS: m/z=231 (M+1).

reactant | ammonium chloride | 43.6 mmol, 2.3 g | [Cl-].[NH4+]
reactant | N-(2-bromo-6-nitrophenyl)acetamide | 8.72 mmol, 2.26 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])NC(C)=O | C8H7BrN2O3
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Iron | 52.32 mmol, 2.92 g | [Fe] | Fe
product | N-(2-Amino-6-bromophenyl)acetamide | NC1=C(C(=CC=C1)Br)NC(C)=O | C8H9BrN2O
